US08937150B2
3,5-difluoro-4-(4-phenylpiperidin-1-yl)aniline
In a 500 mL round-bottom flask was added 1-(2,6-difluoro-4-nitrophenyl)-4-phenylpiperidine (4.53 g, 14.23 mmol), iron (3.97 g, 71.2 mmol), and ammonium chloride (1.142 g, 21.35 mmol) in a solvent mixture of EtOH (60 mL)/THF (60 mL)/water (20 mL). The mixture was refluxed for 3 hours with vigorous stirring, cooled, filtered through diatomaceous earth and the filtrate was concentrated. The residue was partitioned between ethyl acetate and water. The organic layer was washed with brine, dried (Na2SO4), filtered and evaporated to give the title compound as yellow solid (3.93 g, 96% yield). 1H NMR (400 MHz, DMSO-d6) δ ppm 1.63-1.81 (m, 4 H) 2.54-2.64 (m, 1 H) 2.95-3.03 (m, 2 H) 3.09 (t, J=10.57 Hz, 2 H) 5.42 (s, 2 H) 6.10-6.21 (m, 2 H) 7.15-7.22 (m, 1 H) 7.25-7.34 (m, 4 H); MS (ESI+) m/z 289 (M+H)+.

reactant | 1-(2,6-difluoro-4-nitrophenyl)-4-phenylpiperidine | 14.23 mmol, 4.53 g | FC1=C(C(=CC(=C1)[N+](=O)[O-])F)N1CCC(CC1)C1=CC=CC=C1 | C17H16F2N2O2
reactant | ammonium chloride | 21.35 mmol, 1.142 g | [Cl-].[NH4+]
reactant | EtOH | 60 mL | CCO | C2H6O
reactant | THF | 60 mL | C1CCOC1 | C4H8O
catalyst | iron | 71.2 mmol, 3.97 g | [Fe] | Fe
solvent | water | 20 mL | O | H2O
product | 3,5-difluoro-4-(4-phenylpiperidin-1-yl)aniline | 3.93 g, 96% yield | FC=1C=C(N)C=C(C1N1CCC(CC1)C1=CC=CC=C1)F | C17H18F2N2
